US09290476B2
Ethyl 3-benzyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-6-carboxylate
A mixture of ethyl 4-aminobenzoate (2.85 g, 17.2 mmol) and bis(2,4,6-trichlorophenyl) 2-benzylmalonate (11.4 g, 20.7 mmol, Intermediate 33: step a) was microwaved at 250° C. for 15 minutes (Biotage Initiator). The reaction was then allowed to cool to room temperature, and the resulting tan semisolid was dispersed in ether (15 mL) and filtered. The beige filter cake was washed with ether (1×15 mL) and dried at 100° C. to provide the title compound as a light beige powder.

reactant | ethyl 4-aminobenzoate | 17.2 mmol, 2.85 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | bis(2,4,6-trichlorophenyl) 2-benzylmalonate | C(C1=CC=CC=C1)C(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl | C22H12Cl6O4
solvent | ether | 15 mL | CCOCC | C4H10O
product | Ethyl 3-benzyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-6-carboxylate | C(C1=CC=CC=C1)C=1C(NC2=CC=C(C=C2C1O)C(=O)OCC)=O | C19H17NO4
